US08633237B2
b) N-(5-(5-methoxypyridin-3-yloxy)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
A mixture of N-(5-hydroxy-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide (50.0 mg, 0.196 mmol), 5-methoxypyridin-3-ylboronic acid (90 mg, 0.587 mmol), Copper(II)acetate (35.6 mg, 0.196 mmol), triethylamine (0.136 mL, 0.979 mmol), and crushed 4 Å molecular sieves (150 mg) in Dichloromethane (2 mL) was stirred at rt for 3 days. After this time the reaction mixture was filtered and solvent evaporated in vacuo. Purification by flash chromatography (heptane:EtOAc 3:1) afforded the title compound as a white solid. (6.7 mg, 9.4%). MS (ESI): m/z [M−H]− 361.0

reactant | N-(5-hydroxy-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 0.196 mmol, 50.0 mg | OC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C12H17NO3S
reactant | 5-methoxypyridin-3-ylboronic acid | 0.587 mmol, 90 mg | COC=1C=C(C=NC1)B(O)O | C6H8BNO3
reactant | triethylamine | 0.979 mmol, 0.136 mL | C(C)N(CC)CC | C6H15N
solvent | Dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | Copper(II)acetate | 0.196 mmol, 35.6 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-(5-(5-methoxypyridin-3-yloxy)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | COC=1C=C(C=NC1)OC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C18H22N2O4S
